US04489094
4-[Bis[3-(p-chlorophenyl)propyl]amino]benzoic acid
A solution of 5.6 g. of 4-[bis[3-(p-chlorophenyl)propyl]amino]benzoic acid, ethyl ester and 3 g. of 85% potassium hydroxide in 50 ml. of ethanol is stirred at 75° C. for 4 hours, cooled, diluted with 100 ml. of water, and adjusted to pH 6.0 with 37% hydrochloric acid. The solution is extracted with two 150 ml. portions of ether. The ether extracts are combined, washed with 100 ml. of water, then 100 ml. of brine, dried over magnesium sulfate, and evaporated to an orange solid. This solid is recrystallized twice from 50 ml. of acetonitrile, giving 1.39 g. of the desired product, m.p. 128°-131° C.

reactant | 4-[bis[3-(p-chlorophenyl)propyl]amino]benzoic acid, ethyl ester | ClC1=CC=C(C=C1)CCCN(C1=CC=C(C(=O)OCC)C=C1)CCCC1=CC=C(C=C1)Cl | C27H29Cl2NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-[Bis[3-(p-chlorophenyl)propyl]amino]benzoic acid | ClC1=CC=C(C=C1)CCCN(C1=CC=C(C(=O)O)C=C1)CCCC1=CC=C(C=C1)Cl | C25H25Cl2NO2
